US04772312
16.9 g (0.1 mole) of ethyl ethoxymethylenecyanoacetate and 17.8 g (0.1 mole) of 3,5-dichloro-pyrid-2-ylhydrazine in 150 ml of ethoxyethanol are stirred at 80° C. for 5 hours and then at 120° C. for a further 2 hours. For working up, the solvent is removed in vacuo. 29.6 g (98% of theory) of 5-amino-1-(3,5-dichloro-pyrid-2-yl)-4-ethoxycarbonyl-pyrazole of melting point 98°-101° C. are obtained.

reactant | ethyl ethoxymethylenecyanoacetate | 0.1 mole, 16.9 g | C(C)OC=C(C(=O)OCC)C#N | C8H11NO3
reactant | 3,5-dichloro-pyrid-2-ylhydrazine | 0.1 mole, 17.8 g | ClC=1C(=NC=C(C1)Cl)NN | C5H5Cl2N3
solvent | ethoxyethanol | 150 ml | C(C)OC(C)O | C4H10O2
product | 5-amino-1-(3,5-dichloro-pyrid-2-yl)-4-ethoxycarbonyl-pyrazole | 29.6 g, 98% | NC1=C(C=NN1C1=NC=C(C=C1Cl)Cl)C(=O)OCC | C11H10Cl2N4O2
